* gnetlist -L ../.. -g spice-noqsi -o CMOS_Inverter.net CMOS_Inverter.sch
* SPICE file generated by spice-noqsi version 20130710
* Send requests or bug reports to jpd@noqsi.com
.subckt INV1 2 1
M4 1 2 Vdd Vdd P1  l=0.4u w=3u         m=25
M1 1 2 Vss Vss N1  l=1.2u w=3u         m=25
*
*
.ENDS
